US04882359
5.24 g of 1-(5-bromopentyl) azacycloheptane-2-one, 1.34 g of 2-(n-butylthio) ethanol, 2.24 g of powderly potassium hydroxide and 30 ml of dimethylsulfoxide were mixed together, agitated at room temperature for 10 hours, extracted with dichloromethane to obtain an extract. The thus obtained extract was washed with water, dried, freed from the solvent by distillation off at reduced pressure and then finally distilled to obtain 2.84 g of colorless 1-[5-(2-butylthioethyl) oxypentyl] azacycloheptane-2-one having the following appearance, column temperature and analysis:

reactant | 1-(5-bromopentyl) azacycloheptane-2-one | 5.24 g | BrCCCCCN1C(CCCCC1)=O | C11H20BrNO
reactant | 2-(n-butylthio) ethanol | 1.34 g | C(CCC)SCCO | C6H14OS
reactant | potassium hydroxide | [OH-].[K+]
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 1-[5-(2-butylthioethyl) oxypentyl] azacycloheptane-2-one | 2.84 g | C(CCC)SCCOCCCCCN1C(CCCCC1)=O | C17H33NO2S
